US09326516B2
1-(2-Hydroxy-1-(4-(trifluoromethoxy)phenyl)ethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C14)
The title compound was prepared with 2-amino-2-(4-(trifluoromethoxy)phenyl)ethanol and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole and isolated as an white solid (1.42 g, 87%) 1H NMR (400 MHz, CDCl3) δ 8.60 (s, 1H), 8.35-8.22 (m, 2H), 7.94 (s, 1H), 7.88-7.71 (m, 2H), 7.51-7.11 (m, 9H), 7.05 (d, J=7.9 Hz, 1H), 5.75 (s, 1H), 4.06 (dd, J=11.2, 3.9 Hz, 1H), 3.94 (dd, J=11.2, 4.7 Hz, 1H); ESIMS m/z 584 ([M+H]+).

reactant | 2-amino-2-(4-(trifluoromethoxy)phenyl)ethanol | NC(CO)C1=CC=C(C=C1)OC(F)(F)F | C9H10F3NO2
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | 1-(2-Hydroxy-1-(4-(trifluoromethoxy)phenyl)ethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | OCC(C1=CC=C(C=C1)OC(F)(F)F)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C25H19F6N5O3S
